US06559162B2
N-{3-[3-(4-Cyanoanilino)propyl]-3-azabicyclo[3.2.1]oct-8-yl)-N-methyl-1-butanesulfonamide
A solution of 1-butanesulfonyl chloride (39.1 mg, 0.25 mmol) in MeCN (2 mL) was added to a solution of 4-({3-[8-(methylamino)-3-azabicyclo[3.2.1]oct-3-yl]propyl}amino)benzonitrile (Preparation G; 74.6 mg, 0.25 mmol) in CHCl3 (0.5 mL). K2CO3 was added and the mixture was stirred at rt for 24 h. The mixture was filtered through a silica plug (500 mg), which plug was then eluted with MeCN:CHCl3 (80:20; 3×2.5 mL), followed by CHCl3:MeOH (95:5), to give the title compound in 35% yield.

reactant | 1-butanesulfonyl chloride | 0.25 mmol, 39.1 mg | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
reactant | 4-({3-[8-(methylamino)-3-azabicyclo[3.2.1]oct-3-yl]propyl}amino)benzonitrile | 0.25 mmol, 74.6 mg | CNC1C2CN(CC1CC2)CCCNC2=CC=C(C#N)C=C2 | C18H26N4
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 2 mL | CC#N | C2H3N
solvent | CHCl3 | 0.5 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{3-[3-(4-Cyanoanilino)propyl]-3-azabicyclo[3.2.1]oct-8-yl)-N-methyl-1-butanesulfonamide | 35% yield | C(#N)C1=CC=C(NCCCN2CC3CCC(C2)C3N(S(=O)(=O)CCCC)C)C=C1 | C22H34N4O2S
